US07223769B2
In 20 ml of tetrahydrofuran was dissolved 1 g of 1-hydroxy-2-propanone, to which 26 ml of a 1.14 mol/l solution (diethyl ether solution) of methyl lithium was added dropwise at −78° C. The mixture was stirred at the same temperature for 1 hour. After gradually increasing the temperature up to 0° C., 4 ml of a solution containing 2 g of 4,6-dichloropyrimidine in tetrahydrofuran was added dropwise, followed by further stirring 2 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with ethyl acetate. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.66 g of 4-chloro-6-(2-hydroxy-2-methylpropyloxy)pyrimidine.

reactant | 1-hydroxy-2-propanone | 1 g | OCC(C)=O | C3H6O2
reactant | methyl lithium | C[Li]
reactant | 4,6-dichloropyrimidine | 2 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-chloro-6-(2-hydroxy-2-methylpropyloxy)pyrimidine | 0.66 g | ClC1=NC=NC(=C1)OCC(C)(C)O | C8H11ClN2O2
